US09403818B2
Preparation of methyl 8-(2-methylpyridin-4-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(2-methylpyridin-4-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and (2-methylpyridin-4-yl)boronic acid (56.3 mg, 0.41 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded quantitatively the title compound as a yellow solid.

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | (2-methylpyridin-4-yl)boronic acid | 0.41 mmol, 56.3 mg | CC1=NC=CC(=C1)B(O)O | C6H8BNO2
product | methyl 8-(2-methylpyridin-4-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | CC1=NC=CC(=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C21H20N2O3
